US07985769B2
3-{(2,4-Dichloro-benzoyl)-[5-(3-trifluoromethyl-phenyl)-furan-2-ylmethyl]-amino}-5-phenyl-thiophene-2-carboxylic acid methyl ester
To a stirred solution of 5-Phenyl-3-{[5-(3-trifluoromethyl-phenyl)-furan-2-ylmethyl]-amino}-thiophene-2-carboxylic acid methylester (65 mg 0.142 mmol) in dichloromethane (3 ml) and saturated NaHCO3 solution (3 ml) was added a solution of 2,4-dichloro-benzoyl chloride (36 mg, 1.2 eq.) in dichloromethane (0.9 ml). The reaction mixture was stirred vigorously at room temperature for overnight. The organic phase was collected and the aqueous phase was extracted twice with methylene chloride (2×15 ml). The organic layers were combined, washed with water, brine and dried over anhydrous Na2SO4. Solvent was removed and residue was purified on silica gel using Hexane:EtOAc 9:1 as eluant to give the desired product in 78% yield (70 mg). The proton NMR indicated the presence of rotamers.

reactant | 5-Phenyl-3-{[5-(3-trifluoromethyl-phenyl)-furan-2-ylmethyl]-amino}-thiophene-2-carboxylic acid methylester | 0.142 mmol, 65 mg | COC(=O)C=1SC(=CC1NCC=1OC(=CC1)C1=CC(=CC=C1)C(F)(F)F)C1=CC=CC=C1 | C24H18F3NO3S
reactant | 2,4-dichloro-benzoyl chloride | 36 mg, 1.2 eq. | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | NaHCO3 | 3 ml | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 0.9 ml | ClCCl | CH2Cl2
product | 3-{(2,4-Dichloro-benzoyl)-[5-(3-trifluoromethyl-phenyl)-furan-2-ylmethyl]-amino}-5-phenyl-thiophene-2-carboxylic acid methyl ester | 78% yield | COC(=O)C=1SC(=CC1N(CC=1OC(=CC1)C1=CC(=CC=C1)C(F)(F)F)C(C1=C(C=C(C=C1)Cl)Cl)=O)C1=CC=CC=C1 | C31H20Cl2F3NO4S
